US09315490B2
279a) N-(2-Amino-2-oxoethyl)-1-(5-bromopyrimidin-2-yl)-N-methyl-3-(methylsulfinyl)-1H-indole-6-carboxamide
Diisopropylethylamine (0.34 mL, 1.99 mmol), EDCxHCl (0.19 g, 0.992 mmol) and HOBt ammonium salt (0.15 g, 0.997 mmol) were added to 2-(1-(5-bromopyrimidin-2-yl)-N-methyl-3-(methylsulfinyl)-1H-indole-6-carboxamido)acetic acid (0.3 g, 0.66 mmol, synthesized from 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylic acid in three steps comprising a TBTU mediated amide coupling of methyl 2-(methylamino)acetate hydrochloride, the oxidation of the thioether and the hydrolysis of the methyl ester) in DMF (3.0 mL). The reaction mixture was stirred at room temperature for 16 h, diluted with ice water and extracted with methanol/dichloromethane (5:95; 3×40 mL). The combined organic layers were successively washed with saturated sodium hydrogen carbonate, saturated ammonium chloride solution, and brine, dried over sodium sulfate and concentrated to yield the raw product which was purified by column chromatography [silica; methanol/dichloromethane=5:95]. White solid. Yield: 0.13 g (43% of theory)

reactant | Diisopropylethylamine | 1.99 mmol, 0.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(1-(5-bromopyrimidin-2-yl)-N-methyl-3-(methylsulfinyl)-1H-indole-6-carboxamido)acetic acid | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N(C)CC(=O)O)S(=O)C | C17H15BrN4O4S
reactant | 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylic acid | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)SC | C14H10BrN3O2S
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | methyl 2-(methylamino)acetate hydrochloride | Cl.CNCC(=O)OC
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-2-oxoethyl)-1-(5-bromopyrimidin-2-yl)-N-methyl-3-(methylsulfinyl)-1H-indole-6-carboxamide | NC(CN(C(=O)C1=CC=C2C(=CN(C2=C1)C1=NC=C(C=N1)Br)S(=O)C)C)=O | C17H16BrN5O3S
